US05252538
Prepatation of diethyl 3-methylisoxazolo[5,4-b]pyridine-5,6-dicarboxylate
5-Amino-3-methylisoxazole (12.25 g, 0.125 mol) and diethyl(ethoxymethylene)oxalacetate (33.55 g, 0.138 mol) are dissolved in 200 mL glacial acetic acid under an N2 atmosphere. The solution is heated to reflux for two hours, then stirred at room temperature for 65 hours. The solution is poured into ice water, causing the precipitation of a red solid. The solid is collected by filtration, redissolved in 175 mL glacial acetic acid and reprecipitated with the addition of ice. The resulting yellow solid is collected by filtration and air dried, giving 14.20 g of product, yield 40.8%, having melting point 95°-99° C. A small amount is recrystallized from hexanes/ethyl acetate. melting point 100°-101° C.

reactant | 5-Amino-3-methylisoxazole | 0.125 mol, 12.25 g | NC1=CC(=NO1)C | C4H6N2O
reactant | diethyl(ethoxymethylene)oxalacetate | 0.138 mol, 33.55 g | C(C)OC(C(C(=O)C(=O)OCC)=COCC)=O | C11H16O6
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | diethyl 3-methylisoxazolo[5,4-b]pyridine-5,6-dicarboxylate | 14.20 g, yield 40.8% | CC1=NOC2=NC(=C(C=C21)C(=O)OCC)C(=O)OCC | C13H14N2O5
